US06228877B1
A stirred solution of 1-methyl-6-nitro-1H-indole in diethyl ether (Et2O) (5 mL) was cooled to 0° C., and treated with oxalyl chloride (0.15 mL, 1.7 mm). After stirring at room temperature overnight, solids were collected, washed with ether and dried to afford (255 mg, 96%) (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride.

reactant | 1-methyl-6-nitro-1H-indole | CN1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C9H8N2O2
reactant | oxalyl chloride | 0.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride | 255 mg, 96% | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)Cl)=O | C11H7ClN2O4
